US07875630B2
Step 3b—Alternative Preparation of tropine-3-xanthate
Tropine-3-mesylate (25 g, 0.114 mol) and sodium ethylxanthate (19.7 g, 0.137 mol) were added to stirred toluene (0.075 L) under nitrogen. The stirred mixture was maintained at 30° C. for 6 h. Water (0.05 L) was added and after 15 min stirring the phases were separated. The toluene phase, containing the title compound, was used directly in the preparation of tropine-3-thiol as in Step 4b.

reactant | Tropine-3-mesylate | 0.114 mol, 25 g | CN1C2CCC1CC(C2)OS(=O)(=O)C | C9H17NO3S
reactant | sodium ethylxanthate | 0.137 mol, 19.7 g | C(C)OC(=S)[S-].[Na+]
reactant | toluene | 0.075 L | C1(=CC=CC=C1)C | C7H8
solvent | Water | 0.05 L | O | H2O
product | tropine-3-xanthate | CN1[C@@H]2CC[C@H]1CC(C2)SC(=O)S | C9H15NOS2
